datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([C:18](=[C:19]([H:23])[H:24])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:17]([C:18](=[C:19]([H:23])[H:24])[H:22])([H:20])[H:21])[H:7],56.484
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([S:13][H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:17])[H:6])([H:4])[H:5].[C:11]([C:12]([S:13][H:19])[H:18])([H:14])([H:15])[H:16],58.576
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4][H:12])([H:10])[H:11])([H:5])[H:6].[O:13][O:14]>>[C:0](=[C:1]([C:2]([H:8])[H:9])[C:3]([O:4][H:12])([H:10])[H:11])([H:5])[H:6].[H:7][O:13][O:14],166.9416
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[c:25]1[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]([H:34])[c:30]1[H:35]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][c:25]1[c:26]([H:31])[c:27]([H:32])[c:28]([H:33])[c:29]([H:34])[c:30]1[H:35],-4.184
[C:0](#[C:1][H:3])[H:2].[c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]2[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]12>>[C:0](=[C:1][H:3])([H:2])[c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]2[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]12,8.079304
[C:0]([C:1]1([H:14])[C:2]([H:15])([H:16])[C:3]([H:17])([H:18])[C:4]([H:19])[c:5]2[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]21)([H:11])([H:12])[H:13]>>[C:0]([C:1]1([H:14])[C:2]([H:15])([H:16])[C:3]([H:18])=[C:4]([H:19])[c:5]2[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]21)([H:11])([H:12])[H:13].[H:17],183.348
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7](=[C:8]([S:9][H:13])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:13])[H:4].[C:7](=[C:8]([S:9])[H:12])([H:10])[H:11],-5.4392
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([H:12])([H:13])[H:14])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([C:2](=[S:3])[H:9])[H:6])([H:4])[H:5].[C:7]([C:8]([H:12])([H:13])[H:14])([H:10])[H:11],73.22
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[S:9]=[C:10]([C:11]([S:12][H:16])([H:14])[H:15])[H:13]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:14])([H:4])[H:5].[S:9]=[C:10]([C:11]([S:12][H:16])[H:15])[H:13],21.7568
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:5])([H:6])[H:7].[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:6])[H:7].[H:5][H:17],26.9868
[C:0]1([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])=[C:3]([H:14])[C:4]1([C:5]1([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15]>>[C:0]12([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])=[C:3]([H:14])[C:4]1([H:15])[C:5]1([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])[C:9]21[H:20],35.564
[C:0]([H:1])([H:2])[H:3].[C:4]1([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[C:7]([H:15])([H:16])[C:8]([H:17])([H:18])[C:9]1([H:19])[H:20]>>[C:0]([H:1])([H:2])([H:3])[C:4]1([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[C:7]([H:15])([H:16])[C:8]([H:17])([H:18])[C:9]1([H:19])[H:20],0.0
[C:0]([C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0](=[C:1]([H:10])[H:11])([H:8])[H:9].[O:2]=[C:3]([O:4][H:7])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13],202.924
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21])[H:8])[H:7])([H:5])[H:6],33.3465
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6].[O:13][O:14]>>[C:0]([C:1](=[C:2]([C:3]([H:10])([H:11])[H:12])[H:9])[H:7])([H:4])([H:5])[H:6].[H:8][O:13][O:14],39.003248
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13]([C:12]([H:16])([H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24],7.9496
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[C:6]([H:15])([H:16])[H:17])([H:11])[H:12])[H:10])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([C:6]([H:15])([H:16])[H:17])[C:5]1([H:13])[H:14])[H:9])([H:7])[H:8],161.712
